US05958910
A mixture of 0.5 g of 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide with 0.35 g of phenylmethanesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the solid which thereby separated was filtered off and dissolved in a mixture of 25 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.4 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. After neutralization with concentrated hydrochloric acid the mixture was concentrated and the aqueous residue was extracted twice with ethyl acetate. The organic phases were combined, dried with magnesium sulphate and freed from solvent. The residue was chromatographed on 30 g of Kieselgel 60 with ethyl acetate/hexane (1:2) as the eluent. The product-containing fractions were concentrated. Recrystallization of the residue from 5 ml of ethyl acetate yielded 60 mg of N-[4-(3-nitro-phenyl)-thiazol-2-yl]-C-phenyl-methanesulfonamide as colorless crystals.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | phenylmethanesulfonyl chloride | 0.35 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(3-nitro-phenyl)-thiazol-2-yl]-C-phenyl-methanesulfonamide | 60 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)CC1=CC=CC=C1 | C16H13N3O4S2
